US05610144
At a temperature in the vicinity of 25° C., 13.7 cm3 of a 1M solution of tetrabutylammonium fluoride in tetrahydrofuran are added to a solution of 4.2 g of 2-trimethylsilylethyl (2R,4R)-3-{3-{2-[4-tert-butoxycarbonyl-2-(3-methoxyphenyl)-3-thiazolidinyl]-2-oxoethyl}ureido}benzoate in 80 cm3 of tetrahydrofuran. The reaction mixture is stirred for 12 hours at a temperature in the vicinity of 25° C., then acidified with 15 cm3 of a 1N aqueous sulphuric acid solution. After extraction with 3 times 50 cm3 of ethyl acetate, the combined organic phases are washed with 60 cm3 of water, then extracted with 2 times 20 cm3 of a 1N aqueous sodium hydroxide solution. The aqueous phases are separated, washed with 2 times 40 cm3 of ethyl ether, acidified to a pH of 4 with a 4N aqueous sulphuric acid solution and extracted with 3 times 50 cm3 of ethyl ether. The organic phases are combined, dried over magnesium sulphate and concentrated to dryness under reduced pressure at 30° C. The solid obtained is dissolved in 10 cm3 of a 0.5N aqueous sodium hydroxide solution. The solution obtained is filtered and acidified with 5 cm3 of a 1N aqueous hydrochloric acid solution. The insoluble product is separated by filtration, washed with 2 times 5 cm3 of water and dried in air. 1.48 g of (2R,4R)-3-{3-{2-[4-tert-butoxycarbonyl-2-(3-methoxyphenyl)-3-thiazolidinyl]-2-oxoethyl}ureido}benzoic acid, melting at 125°, are thus obtained, ([α]D20 =+74°±2° (C=0.32%; DMF)) [proton NMR (200 MHz, DMSO D6, δ in ppm), 2 rotamers at room temperature, peak coalescence at 120° C., characteristic chemical shifts at 120° C.: 3.8 (s, 3H, OCH3); 6.85 (bd, 1H, O--C6H4 --C in position 4); 7.2 to 7.6 (m, 6H, aromatic); 8.0 (bs, 1H, N--C6H4 -- in position 2). Infrared spectrum (KBr), characteristic bands in cm-1 : 3380, 2975, 2930, 2830, 2600, 1715, 1690, 1655, 1600, 1555, 1490, 1370, 1230, 1150, 1050, 755, 690, 680].

reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 2-trimethylsilylethyl (2R,4R)-3-{3-{2-[4-tert-butoxycarbonyl-2-(3-methoxyphenyl)-3-thiazolidinyl]-2-oxoethyl}ureido}benzoate | 4.2 g | C(C)(C)(C)OC(=O)[C@H]1N([C@H](SC1)C1=CC(=CC=C1)OC)C(CNC(NC=1C=C(C(=O)OCC[Si](C)(C)C)C=CC1)=O)=O | C30H41N3O7SSi
reactant | sulphuric acid | 1N | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 cm3 | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 0.5N | [OH-].[Na+]
product | (2R,4R)-3-{3-{2-[4-tert-butoxycarbonyl-2-(3-methoxyphenyl)-3-thiazolidinyl]-2-oxoethyl}ureido}benzoic acid | 1.48 g | C(C)(C)(C)OC(=O)[C@H]1N([C@H](SC1)C1=CC(=CC=C1)OC)C(CNC(NC=1C=C(C(=O)O)C=CC1)=O)=O | C25H29N3O7S
